US07632857B2
4-(5-Acetyl-pyridin-2-yl)-benzoic acid methyl ester
Procedure U′: To a stirring solution of 1-(6-chloro-pyridin-3-yl)-ethanone (1.0 mmol, CAS # 55676-22-7) and 4-methoxycarbonylphenyl boronic acid (1.2 mmol) in dioxane (0.15M), add tetrakis-(triphenylphosphine) palladium (0.044 mmol) and 2M aqueous sodium carbonate (5.0 mmol). Heat the reaction to 90° C. for three hours. After this time, remove the heat and concentrate in vacuo. Purify the title compound via radial chromatography eluting with methanol and dichloromethane. MS (m/e): 256.1 (M+1)

reactant | 1-(6-chloro-pyridin-3-yl)-ethanone | 1.0 mmol | ClC1=CC=C(C=N1)C(C)=O | C7H6ClNO
reactant | 4-methoxycarbonylphenyl boronic acid | 1.2 mmol | COC(=O)C1=CC=C(C=C1)B(O)O | C8H9BO4
reactant | sodium carbonate | 5.0 mmol, 2M | C([O-])([O-])=O.[Na+].[Na+]
solvent | dioxane | 0.15M | O1CCOCC1 | C4H8O2
catalyst | tetrakis-(triphenylphosphine) palladium | 0.044 mmol | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 4-(5-Acetyl-pyridin-2-yl)-benzoic acid methyl ester | COC(C1=CC=C(C=C1)C1=NC=C(C=C1)C(C)=O)=O | C15H13NO3
